US06303816B1
2-(4-bromophenyl)-N-(t-butoxycarbonyl)ethylamine
To a room temperature solution of 10.0 g (50.0 mmol) of 4-bromophenethylamine and 11.0 g (50.0 mmol) of di-tert-butyl dicarbonate in 100 mL of chloroform was added 100 mL of saturated aqueous sodium bicarbonate. The mixture was stirred at room temperature for 1.5 hours and diluted with 100 mL of water. The organic layer was separated and the aqueous layer was extracted two times with 100 mL each of chloroform. The combined organics were washed once with 100 mL of 10% aqueous sodium bisulfate, dried (NaSO4), filtered and concentrated in vacuo to afford 14.6 g (97%).

reactant | 4-bromophenethylamine | 50.0 mmol, 10.0 g | BrC1=CC=C(CCN)C=C1 | C8H10BrN
reactant | di-tert-butyl dicarbonate | 50.0 mmol, 11.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | 100 mL | O | H2O
product | 2-(4-bromophenyl)-N-(t-butoxycarbonyl)ethylamine | BrC1=CC=C(C=C1)C(CN)C(=O)OC(C)(C)C | C13H18BrNO2
